US07678798B2
3-[2-Bromo-4-(trifluoromethyl)phenyl]propanoic acid
[2-Bromo-4-(trifluoromethyl)benzyl]malonic acid (9.80 g, 28.7 mmol) in a round-bottom flask was heated to 180° C. and heating was continued at 180° C. for 1.5 hrs. After cooling to room temperature, the solid was dissolved in ether. The resulting solution was dried over MgSO4 and concentrated. The solid was washed with hexane to give the title compound (7.20 g, 85%). MS calculated for C10H8BrF3O2: (M+H)+ 297; found 297.0, 299.0.

reactant | [2-Bromo-4-(trifluoromethyl)benzyl]malonic acid | 28.7 mmol, 9.80 g | BrC1=C(CC(C(=O)O)C(=O)O)C=CC(=C1)C(F)(F)F | C11H8BrF3O4
solvent | ether | CCOCC | C4H10O
product | 3-[2-Bromo-4-(trifluoromethyl)phenyl]propanoic acid | 7.20 g, 85% | BrC1=C(C=CC(=C1)C(F)(F)F)CCC(=O)O | C10H8BrF3O2
